US06645968B2
2-((4-chlorobenzoyl)amino)-3,3-dimethylbutanoic Acid
Racemic tert-butylglycine and 4-chlorobenzoyl chloride were processed as described in Example 26A to provide the desired product.

reactant | Racemic tert-butylglycine | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 2-((4-chlorobenzoyl)amino)-3,3-dimethylbutanoic Acid | ClC1=CC=C(C(=O)NC(C(=O)O)C(C)(C)C)C=C1 | C13H16ClNO3
